US07696240B2
5-Chloro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-1H-indole-2-carboxylic acid
Using general procedure B, 5-chloro-1H-indole-2-carboxylic acid ethyl ester was coupled with 3-bromomethyl-5-fluoro-benzo[b]thiophene (Lit. 18) and the product obtained was hydrolyzed to give the title compound as white solid. MS: 358.1 ([M−H]−).

reactant | 5-chloro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)Cl | C11H10ClNO2
reactant | 3-bromomethyl-5-fluoro-benzo[b]thiophene | BrCC=1C2=C(SC1)C=CC(=C2)F | C9H6BrFS
product | 5-Chloro-1-(5-fluoro-benzo[b]thiophen-3-ylmethyl)-1H-indole-2-carboxylic acid | ClC=1C=C2C=C(N(C2=CC1)CC=1C2=C(SC1)C=CC(=C2)F)C(=O)O | C18H11ClFNO2S
